US04973592
A mixture of 2-(2-pyrimidyl)aminoethyl α-cyclohexylphenylglycolate hydrochloride (1.4 g) and 10% palladium on carbon (0.15 g) in H2O (150 ml), was hydrogenated at room pressure. After the absorption had ceased, the catalyst was filtered off, and the solution was evaporated in vacuo. The residue was triturated with ethylacetate, affording 0.85 of 2-(1,4,5,6-tetrahydropyrimidin-2-yl)aminoethyl α-cyclohexylphenylglycolate hydrochloride. M.p. 95° C.

reactant | 2-(2-pyrimidyl)aminoethyl α-cyclohexylphenylglycolate hydrochloride | 1.4 g | Cl.C1(CCCCC1)C(C(=O)OCCNC1=NC=CC=N1)(O)C1=CC=CC=C1
catalyst | palladium on carbon | 0.15 g | [Pd] | Pd
solvent | H2O | 150 ml | O | H2O
product | 2-(1,4,5,6-tetrahydropyrimidin-2-yl)aminoethyl α-cyclohexylphenylglycolate hydrochloride | Cl.C1(CCCCC1)C(C(=O)OCCNC=1NCCCN1)(O)C1=CC=CC=C1 | InChI=1S/C20H29N3O3.ClH/c24-18(26-15-14-23-19-21-12-7-13-22-19)20(25,16-8-3-1-4-9-16)17-10-5-2-6-11-17;/h1,3-4,8-9,17,25H,2,5-7,10-15H2,(H2,21,22,23);1H
